US06867161B1
To an ether suspension (2 ml) containing copper iodide (0.293 g, 1.2 mmol) was added dropwise at −10° C. 1.26 ml of 1.91M ether solution containing methyl lithium (2.4 mmol). After heating to 0° C. over 30 minutes, the reaction liquid was given 4,4-dicarboethoxy-6-heptenic acid chloride (0.291 g, 1.0 mmol), followed by stirring at 0° C. for 6 hours. After addition of a saturated aqueous solution of ammonium chloride, the reaction liquid was extracted with ether. The organic layer was dried with anhydrous magnesium sulfate and freed of solvent by vacuum distillation. The residues were purified by silica gel chromatography to give 0.295 g of 5,5-dicarboethoxy-7-octen-2-on (yields: 91%). Characteristic Values of 5,5-dicarboethoxy-7-octen-2-on

reactant | methyl lithium | 2.4 mmol | C[Li]
reactant | 4,4-dicarboethoxy-6-heptenic acid chloride | 1.0 mmol, 0.291 g | C(=O)(OCC)C(CCC(=O)Cl)(CC=C)C(=O)OCC | C13H19ClO5
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper iodide | 1.2 mmol, 0.293 g | [Cu](I)I
solvent | ether | 1.91M, 1.26 ml | CCOCC | C4H10O
solvent | ether | 2 ml | CCOCC | C4H10O
product | 5,5-dicarboethoxy-7-octen-2-on | 0.295 g, 91% | C(=O)(OCC)C(CCC(C)=O)(CC=C)C(=O)OCC | C14H22O5
